US04410354
Embodiment VI--2-Ethyl-2-((2-pyridinylmethoxy)methyl)-1,7-dioxaspiro[4.5]decane
Following procedures similar to Embodiments I-V above, 2-ethyl-1,7-dioxaspiro[4.5]decane-2-methanol was treated with 2-picolinyl chloride in the presence of sodium hydride to yield the desired product as a pale amber oil, b.p. 123° C. (0.006 mm).

reactant | 2-ethyl-1,7-dioxaspiro[4.5]decane-2-methanol | C(C)C1(OC2(CC1)COCCC2)CO | C11H20O3
reactant | 2-picolinyl chloride | N1=C(C=CC=C1)CCl | C6H6ClN
reactant | sodium hydride | [H-].[Na+]
product | 2-Ethyl-2-((2-pyridinylmethoxy)methyl)-1,7-dioxaspiro[4.5]decane | C(C)C1(OC2(CC1)COCCC2)COCC2=NC=CC=C2 | C17H25NO3
